US06953857B2
3-[2-(2,4-Dichlorophenyl)-ethoxy]-N-(3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-ylmethyl)-benzamide
0.100 g (0.321 mmol) of 3-[2-(2,4-Dichlorophenyl)-ethoxy]-benzoic acid was dissolved in 2 ml of DMF and treated with 0.148 g (1.28 mmol) of N-NEM and 0.105 g (0.321 mmol) of TOTU and 0.123 g (0.64 mmol) of C-(3,4,5,6-Tetrahydro-2H-[1,4′]bipyridinyl-4-yl)-methylamine. The solution was stirred for 16 h at RT. The solvent was removed under reduced pressure, the residue was taken-up in ethyl acetate and the solution was washed twice with saturated aqueous sodium bicarbonate and once with saturated aqueous sodium chloride. The organic phase was dried with magnesium sulphate, filtered and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with a gradient of 0 to 17% MeOH in DCM.

reactant | 3-[2-(2,4-Dichlorophenyl)-ethoxy]-benzoic acid | 0.321 mmol, 0.100 g | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1 | C15H12Cl2O3
reactant | TOTU | 0.321 mmol, 0.105 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | C-(3,4,5,6-Tetrahydro-2H-[1,4′]bipyridinyl-4-yl)-methylamine | 0.64 mmol, 0.123 g | N1(CCC(CC1)CN)C1=CC=NC=C1 | C11H17N3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-[2-(2,4-Dichlorophenyl)-ethoxy]-N-(3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-ylmethyl)-benzamide | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)NCC2CCN(CC2)C2=CC=NC=C2)C=CC1 | C26H27Cl2N3O2
